US04297355
Suspend 7-carboxy-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione (5 g.) in ethanol and pass in HCl gas until saturated. Reflux the mixture for 24 hours then cool, filter and wash with ethanol and ether to yield 7-ethoxycarbonyl(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione.

reactant | 7-carboxy-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione | 5 g | C(=O)(O)C=1C=CC2=C(CC3=C(NC(NC3=O)=S)O2)C1 | C12H8N2O4S
reactant | ethanol | C(C)O | C2H6O
solvent | HCl | Cl | ClH
product | 7-ethoxycarbonyl(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione | C(C)OC(=O)C=1C=CC2=C(CC3=C(NC(NC3=O)=S)O2)C1 | C14H12N2O4S
